* source BATTARY_CONTOLLER
X_U1A         N00172 N00607 N00098 0 N01035 LM358
V_V1         N00098 0 5vdc
R_R1         0 N00172  3meg TC=0,0 
R_R2         N00172 N00098  2meg TC=0,0 
V_V2         N00607 0 4vdc
R_R3         0 N04715  22 TC=0,0 
X_M2         N06033 N01035 N01031 IRF7410
X_M3         N01031 N02009 N00098 IRF7410
X_U1B         N02037 N02561 N00098 0 N02009 LM358
R_R5         0 N02561  5meg TC=0,0 
R_R6         N02561 N00098  50k TC=0,0 
V_V3         N02037 0 5vdc
X_M4         N06037 N03676 N02037 IRF7410
X_M5         N03676 N02009 N00098 IRF7410
R_R10         0 N03676  1k TC=0,0 
X_D1         N06037 N04715 BAT60A/INF
X_D2         N06033 N04715 BAT60A/INF
